2105-12-28 07:30:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2105-12-27**] 06:06 PM
   1st set of bottles. Peripheral stick.
 MULTI LUMEN - START [**2105-12-27**] 06:42 PM
 MAGNETIC RESONANCE IMAGING - At [**2105-12-27**] 08:45 PM
 ARTERIAL LINE - START [**2105-12-27**] 11:45 PM
 LUMBAR PUNCTURE - At [**2105-12-28**] 06:00 AM
   - Prelim read on MRI - normal.  Then reread with question of
   enhancement along R dura of cavernous sinus, right temporal lobe dura,
   along with other abnormalities.
   - LP performed, cloudy fluid, OP 52, 3 cc removed and sent - 990 WBCs,
   152 protein, 47 glucose, gram stain pending.
   - CVL and Aline placed per previous note; continues on pressors.
   -OSH micro data
 2 sets there; both anaerobic bottles with growth
   (first confirmed GNRs, second gram stain pending).  Urine with multiple
   gram positive orgs;throat culture negative.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-27**] 06:45 PM
   Metronidazole - [**2105-12-27**] 07:30 PM
   Cefipime - [**2105-12-27**] 11:30 PM
   Ampicillin - [**2105-12-28**] 04:30 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2105-12-27**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-28**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 101 (94 - 125) bpm
   BP: 120/63(79) {79/37(52) - 121/66(86)} mmHg
   RR: 31 (23 - 47) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 278 (5 - 278)mmHg
   Total In:
                                                                  2,796 mL
                                                                  2,500 mL
   PO:
   TF:
   IVF:
                                                                  2,796 mL
                                                                  2,500 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    350 mL
   Urine:
                                                                    280 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,516 mL
                                                                  2,150 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.24/38/162/15/-10
   Ve: 13.3 L/min
   PaO2 / FiO2: 324
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   75 K/uL
   8.3 g/dL
   109 mg/dL
   1.4 mg/dL
   15 mEq/L
   4.0 mEq/L
   25 mg/dL
   115 mEq/L
   142 mEq/L
   27.1 %
   28.3 K/uL
        [image002.jpg]
                             [**2105-12-27**]  05:53 PM
                            [**2105-12-28**]  12:10 AM
                            [**2105-12-28**]  02:14 AM
                            [**2105-12-28**]  02:52 AM
   WBC
   4.6
   28.3
   Hct
   27.3
   27.1
   Plt
   43
   75
   Cr
   1.6
   1.4
   TCO2
   18
   17
   Glucose
   111
   109
   Other labs: PT / PTT / INR:17.4/30.8/1.6, CK / CKMB / Troponin-T:53//,
   ALT / AST:16/32, Alk Phos / T Bili:170/2.6, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:1.0 %, D-dimer:3509 ng/mL,
   Fibrinogen:297 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:343
   IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   18 F, college student, no past medical history, admit to MICU with
   septic shock, GNR bacteremia, cervical swelling, and cranial nerve
   deficits.
   # Septic shock.  During early MICU course, patient developing
   progressive hypotensive, not completely responsive to fluid boluses;
   hypotension persisting despite normal CVP (>10).  Starting levophed.
   Abnormal neck and cranial nerve exams as above.  Source of infection:
   neck/adenopathy ?Lemierre
s; septic cavernous venous thrombosis,
   meningitis/other CNS infection; pulmonary source (abnormal CXR and
   exam), GI source -> GNR bacteremia; GYN source (less likely as patient
   not sexually active), urinary organisms.   Clinically, Lemierres with
   cavernous venous thrombosis seems to be most consistent with clinical
   picture, though prelim read of MRI negative for this.
   -          CVL in place, goal CVP 8-12.  Bolus prn to achieve this.
   -          Aline in place, MAP goal 60-65.    Levophed if needed.
   -          Broad spectrum antibiotics
 cefepime (at CNS doses), vanco,
   flagyl. Coverage of GNRs, fusobacterium, staph/strep, meningitis bugs.
   Appreciate ID input.
   -          f/u blood cultures from OSH and here.
   -          Urine cultures, stool cultures if diarrhea.
   -          MRI of neck as below.
   -          Consider panCt with contrast if answer not found from
   MRI/MRA/MRV.
   -          Consider LP.
   -          Consider activated protein C, though ?DIC/thrombocytopenia
   as a contraindication.  Calculate APACHE.
   -          Glucose control
   -          Discuss steroids if pressor requirement increases and doing
   poorly; otherwise no indication currently.
   # Respiratory distress/hypoxia.  During early MICU course, patient with
   worsening tachypnea, increasing O2 requirement.  Lung exam also
   evolving with worsening breath sounds on L>R side.  Tachypneic to the
   40s -> ?need to intubate.
   -          Continue to monitor; low threshold for intubation.
   -          [**Month (only) 51**] need ARDSnet on vent
   -          Sputum culture +/- bronchoscopy
   -          Consider rule out PE, especially if considering septic
   thrombosis.
   # Cranial nerve abnormalities.  Appears to have deficits of III, ?IV,
   V, ?X (vs. longerstanding uvular deviation).  NCHCT at OSH reportedly
   normal.  Findings along with septic picture concerning for cavernous
   venous thrombosis, however, prelim read of MRI not suggestive of this.
   -          f/u MRI/MRA/MRV final read.
   -          Appreciate neurology and neurosurgery recs.
   -          If +cavernous venous thrombosis , ?benefits of
   anticoagulation.
   -          Likely LP tonight.
   # ARF.  Volume depletion vs. prerenal from hypotension, vs. ischemic
   ATN/septic ATN.  Slowly improving with IVFs.
   -          continue to bolus for cvp <[**11-29**].
   -          Urine lytes
   -          Careful I/O, foley in place.
   -          ?need for gent or CT contrast; will discuss.
   # DIC.  Elevated coags, dropping platelets, anemia with schistocytes.
   -          continue to monitor, including fibrinogen
   -          consider blood products peri-procedure prn.
   -          Need to review IHOS peripheral smear.
   # Metabolic acidosis.  Elevated lactate here, also with ARF.
   -          monitor ABG/VBG
   -          Ensure adequate MAPs/perfusion.
   ICU Care
   Nutrition:
   Comments: tube feed recs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2105-12-27**] 05:24 PM
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Arterial Line - [**2105-12-27**] 11:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2105-12-28 09:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2105-12-27**] 06:06 PM
   1st set of bottles. Peripheral stick.
 MULTI LUMEN - START [**2105-12-27**] 06:42 PM
 MAGNETIC RESONANCE IMAGING - At [**2105-12-27**] 08:45 PM
 ARTERIAL LINE - START [**2105-12-27**] 11:45 PM
 LUMBAR PUNCTURE - At [**2105-12-28**] 06:00 AM: OP 52 cm, 990 WBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-27**] 06:45 PM
   Metronidazole - [**2105-12-27**] 07:30 PM
   Ampicillin - [**2105-12-28**] 04:30 AM
   Cefipime - [**2105-12-28**] 08:08 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2105-12-27**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-28**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 107 (94 - 125) bpm
   BP: 123/60(77) {79/37(52) - 123/66(86)} mmHg
   RR: 30 (23 - 47) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 278 (5 - 278)mmHg
   Total In:
                                                                  2,796 mL
                                                                  2,584 mL
   PO:
   TF:
   IVF:
                                                                  2,796 mL
                                                                  2,584 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    350 mL
   Urine:
                                                                    280 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,516 mL
                                                                  2,234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.24/38/162/15/-10
   Ve: 13.3 L/min
   PaO2 / FiO2: 324
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: right pupil dilated
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : diffusely, Diminished:
   throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, erythema over the right neck (mild)
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, Right pupil fixed and dilated
   Labs / Radiology
   8.3 g/dL
   75 K/uL
   109 mg/dL
   1.4 mg/dL
   15 mEq/L
   4.0 mEq/L
   25 mg/dL
   115 mEq/L
   142 mEq/L
   27.1 %
   28.3 K/uL
        [image002.jpg]
                             [**2105-12-27**]  05:53 PM
                            [**2105-12-28**]  12:10 AM
                            [**2105-12-28**]  02:14 AM
                            [**2105-12-28**]  02:52 AM
   WBC
   4.6
   28.3
   Hct
   27.3
   27.1
   Plt
   43
   75
   Cr
   1.6
   1.4
   TCO2
   18
   17
   Glucose
   111
   109
   Other labs: PT / PTT / INR:17.4/30.8/1.6, CK / CKMB / Troponin-T:53//,
   ALT / AST:16/32, Alk Phos / T Bili:170/2.6, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:1.0 %, D-dimer:3509 ng/mL,
   Fibrinogen:297 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:343
   IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: [**2105-12-28**] 06:33AM
   Report Comment:
   Source: LP
   ANALYSIS
   WBC, CSF 990 #/uL
     CLOUDY & TRACE XANTHOCHROMIA
   NOTIFIED [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] RN CC7D @ 710AM [**2105-12-28**]
   READBACK COMPLETE
   PERFORMED AT WEST STAT LAB
   RBC, CSF 1215* #/uL 0 - 0
   Imaging: MRI: MRI BRAIN: Abnormal enhancement along the dura of the R
   cavernous sinus. There
   may be abnormal soft tissue within it. The enhancement continues along
   the
   undersurface of the R temporal lobe dura. Suspect
   inflammation/infection.
   There is fluid/inflammation along the R scalp extending inferiorly into
   the R
   neck and infratemporal fossa/masticator space. Possibility of R
   head/neck
   infection that extended venous-retrograde into the cavernous sinus
   producing
   [**Last Name (un) 3457**]-Hunt must be considered. The cavernous sinus is not definitely
   thrombosed-yet- as neither it nor the R superior ophthalmic vein is
   enlarged,
   but this should be followed as a potential complication. Very early
   sinus
   thrombosis cannot absolutely be excluded. MRA BRAIN: Normal
   intracranial
   arteries MRA NECK: Normal carotids/vertebrals MRV HEAD: Normal
   Microbiology: Blood clx (OSH): GNR in 2 anaerobic bottles.
   CSF: gram stain pending
   Blood clx [**12-27**] pending
   Assessment and Plan
   18 yo female with admission with right sided ptosis, opthalmoplegia,
   neck erythema, with GNR bacteremia (anaerobic bottle) ,concern for
   enhancement along the dura of the right cavernous sinus with an OP of
   52 on LP and 900 WBC in the CSF
   Septic Shock/Meningitis: Concern for GNR in the blood (anaerobic
   bottle) and meningitis with high OP on CSF and 900 WBC. Given the
   imaging findings there is significant concern for a evolving cavernous
   sinus thrombosis along the right side with extension to the dura of the
   temporal lobe. IN conjunction with the neck pain this is concerning for
   a anaerobic process (ie fusobacterium). At present we have elected to
   cover infection broadly with Metronidazole, Ampicillin, Cefepime and
   Vancomycin.She received a dose of dexamethasone after the LP.  We also
   have added Acyclovir to cover for HSV given the quesiton of enhancement
   of the dura of the temporal lobe. We  will dicuss further with ID and
   neurosurgery the need for potential anti-coagulation for thrombosis.
   Notably ENT had evaluated and saw no evidence of peri-tonsilar abscess
   and no cord evolvement.
   - Abx as above
   - NE for MAP goal of > 60 mmHg, 2nd pressor to add would be
   vasopressin.
   - Vigileo with flow track for continous monitoring of the SI and CI
   - Q 8 hr lactate and can check mixed venous sat
   - Goal UOP 0.5 cc/kg/hr
   - recalculate APACHE, will need to re-consider APC
   - Follow up with ID and neurosurgery re: anticoagulation and sinus
   thrombosis
   - TTE
   - She will need dexamethasone
   Increased intracranial pressure: will d/w with neurosurgery re:
   Hypoxemic respi failure: her CXRs have evolved a pattern concerning for
   ARDS over the last 12 hrs concomitant with her respi decline. She is
   currently intubated and sedated via ARDS guidelines. We will plan to
   image the lungs with CT scan today to further evaluate
   - ARDS ventilation: Goal PaO2 > 55mmHg, ph>7.20
   - CT scan of the chest today (PE protocol)
   DIC/Anemia: evolving DIC physiology with elevated INR, ptt (mild) and
   decreased plts with inappropriately low fibrinogen and elevated FDP.
   The most likely explanation is her evolving GNR bacteremia/meningitis.
   For now our care is supportive. We will consult with Heme today, given
   that we may need to anti-coagulate for a potential sinus thrombosis.
   The management of the DIC is likely to be supportive. Concern also
   exists potentially for TTP
   - Cont to folloq q 6hrs DIC labs
   - peripheral smear
   - Hematology consult
   - CT abd (given other potential etiology of thrombocytopenia would be
   splenic sequestration)
   Renal failure: seems to be consistent with at least some component of
   pre-renal as she had a Cr of 2.5 at the OSH and is now 1.4. We will
   check urine lytes. Her UOP is below goal. We also need to be concerned
   for TTP given her overall presentation and the presence of schistos on
   the
   - Renal consult
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: initiate tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2105-12-27**] 05:24 PM
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Arterial Line - [**2105-12-27**] 11:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Will update family
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   Addendum- Chest CT: Patchy peripheral / wedge based infiltrates
   Septic Pulmonary embioli
                        CT Head: pending
                        CT Neck: pending
   Discussed with Neurology, Neurosurgery and Neuroradiology.  After
   discussiong with Dr. [**Last Name (STitle) 1836**] (Neuroradiology) there is significant
   abnormalities at the level of the R-Cavernous sinus compatible with
   infection and possible sinus cavernous thrombosis. After discussing
   benefits and risks of anticoagulation with the family we decided to
   proceed with anticoagulation with IV heparin (no bolus/ goal PTT 50)
   F/u PT/INR and PLts closely.
   We will continue IV antibiotics with Flagyl/ Vanco/ Cefipime and d/c
   Acyclovir and Ampicillin. Also continue with dexamethasoner 10 mg q6hr.

2105-12-29 07:48:00 Physician Resident Progress Note
Chief Complaint: cavernous sinus thrombosis
   24 Hour Events:
   -MRI/MRV showed right cavernous venous thrombus with surrounding
   abscess
   - LP gram stain negative, cultures pending (990 WBCs, Opening pressure
   >50) - CSF crypto negative.
   - GNRs in [**3-23**] bottles from [**Location (un) 615**] blood cultures.   Speciation will be
   complete in the evening today.
   -Neurology recommended serial LPs to lower ICP. They did not recommend
   anticoagulation given the risk of intraparenchymal hemorrhage and
   inability to difinitively state that there was a cavernous sinus
   thrombus.  They did not recomend continuous ICP monitoring.  They also
   recommended sending off state encephalitus panel, CMV pcr, VZV prn, EMV
   pcr.
   -Neurosurgery did not recommend continuous ICP monitoring.
   -ID believes this is Lemierre's disase with cavernous veins
   thrombosis. felt ampicillin could be stopped due to presence of GNR
   bacteremia.  Acyclovir can be stopped when HSV PCR is negative.
   - Renal felt renal failure was pre-renal renal failure and requested
   UOsms be sent
   - ENT performed throat culture.  They are concerned about right upper
   wisdom tooth infection and recommended oral surgery consult
   - Heme feels clinical picture is consistent with DIC.  They agree with
   role of anticoagulation given cavernous venous thrombus.
   - Oral surgery suspects possible 3rd molar infection which drains to
   pterygoid plexus --> emissary veins --> cavernous sinus
   - sedation lighted to bolus sedation with good effect
   - Anticoagulated for approximately 8 hours.  Heparin stopped due to
   thrombocytopenia.
   - RSBI of 50 this morning
   - echo showed:
   IMPRESSION: Normal global and regional biventricular systolic function.
   No significant valvular abnormalities. No vegetations found.
   - Renal function rapidly recovered
   -  CT Neck, torso performed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2105-12-28**] 03:19 PM
   Vancomycin - [**2105-12-28**] 08:00 PM
   Acyclovir - [**2105-12-29**] 12:00 AM
   Cefipime - [**2105-12-29**] 12:40 AM
   Metronidazole - [**2105-12-29**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2105-12-28**] 10:39 AM
   Midazolam (Versed) - [**2105-12-29**] 06:53 AM
   Fentanyl - [**2105-12-29**] 06:53 AM
   Other medications:
   Vanco 1250 iv q12
   Fentanyl/versed boluses
   Insulin sliding scale
   Dexamethasone
   Lansoprazole
   Zofran ppi
   Albuterol
   Chlorhexidine
   Flagyl
   Cefepime
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-29**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 118 (73 - 118) bpm
   BP: 99/52(67) {99/52(67) - 140/69(90)} mmHg
   RR: 22 (22 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 9 (3 - 257)mmHg
   CO/CI (CCO): (6 L/min) / (3.3 L/min/m2)
   Total In:
                                                                  5,519 mL
                                                                    996 mL
   PO:
   TF:
   IVF:
                                                                  5,444 mL
                                                                    996 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    380 mL
   Urine:
                                                                  1,760 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,759 mL
                                                                    616 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/28/132/18/-3
   Ve: 12.4 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: right dilated pupil, minimally reactive.  Left eye
   reactive to light.
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , No(t) Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, moving all extremities.  withdraws to pain in all 4
   extremities.
   Labs / Radiology
   46 K/uL
   7.8 g/dL
   184 mg/dL
   1.1 mg/dL
   18 mEq/L
   3.6 mEq/L
   21 mg/dL
   115 mEq/L
   143 mEq/L
   24.3 %
   12.3 K/uL
        [image002.jpg]
                            [**2105-12-28**]  02:14 AM
                            [**2105-12-28**]  02:52 AM
                            [**2105-12-28**]  10:59 AM
                            [**2105-12-28**]  01:56 PM
                            [**2105-12-28**]  05:42 PM
                            [**2105-12-28**]  07:43 PM
                            [**2105-12-29**]  12:01 AM
                            [**2105-12-29**]  01:16 AM
                            [**2105-12-29**]  05:10 AM
                            [**2105-12-29**]  05:21 AM
   WBC
   28.3
   20.3
   10.2
   10.5
   12.3
   Hct
   27.1
   27.0
   24.5
   24.3
   24.3
   Plt
   75
   69
   48
   48
   46
   Cr
   1.4
   1.1
   1.1
   0.9
   1.1
   TCO2
   17
   17
   18
   20
   20
   Glucose
   109
   158
   164
   185
   184
   Other labs: PT / PTT / INR:16.3/27.3/1.5, CK / CKMB / Troponin-T:53//,
   ALT / AST:22/35, Alk Phos / T Bili:98/2.8, Differential-Neuts:93.6 %,
   Band:2.0 %, Lymph:5.5 %, Mono:0.8 %, Eos:0.0 %, D-dimer:3509 ng/mL,
   Fibrinogen:420 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:210
   IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Throat culture: pending
   Sputum culture
 gram stain negative, culture pending
   CSF
 gram stain negative, culture pending
   CSF
 cryptococcal antigen negative
   Urine culture
 negative
   Blood culture x 2 - NGTD
   .
   Imaging:
   CXR.  [**2105-12-28**].
   FINDINGS: In comparison with the study of [**12-27**], there has been
   placement of
   an endotracheal tube with its tip approximately 6 cm above the carina.
   Nasogastric tube extends well into the stomach and the left IJ catheter
   remains in place.
   Interval development of diffuse bilateral pulmonary opacifications.
   Some of
   this probably represents overhydration or pulmonary vascular
   congestion.
   However, in view of the clinical history, the possibility of multifocal
   pneumonia or even ARDS must be considered.
   CT Neck:
   1. Multiple hypodense areas in the pterygoid, predominantly in
   pterygoid
   muscle, also in the parapharyngeal space, and longus [**Last Name (un) **] muscle,
   which is
   indicative for early abscess formation with no discrete collection
   formed yet.
   Extensive right neck tissue swelling and lymphadenopathy as more fully
   characterized on MR from same day with associated superficial vein
   thrombosis.
   2. Endotracheal tube at the carina recommended to pullback by several
   centimeters. Multiple pulmonary focal infiltrates at the apices,
   correlate
   with CTA from same day for full characterization.
   CT Torso:
   1) no central or segmental PE.
   2) tip of endotracheal tube at level of carina. Should be pulled out
   few cms.
   3) multiple areas of consolidation, more on left, probably representing
   infection, septic emboli, or less likely cocaine use or vasculitis.
   4) atelectasis of LLL, could be post aspiration.
   5) small amount of pelvic free fluid.
   6) mild stranding in paracolic regions.
   7) wedge shape hypodense area in right kidney.
   Echo: [**2105-11-28**].
   IMPRESSION: Normal global and regional biventricular systolic function.
   No significant valvular abnormalities. No vegetations found.
   MRA/MRV brain, neck:
   MRI BRAIN: Abnormal enhancement along the dura of the R cavernous
   sinus. There
   may be abnormal soft tissue within it. The enhancement continues along
   the
   undersurface of the R temporal lobe dura. Suspect
   inflammation/infection.
   There is fluid/inflammation along the R scalp extending inferiorly into
   the R
   neck and infratemporal fossa/masticator space. Possibility of R
   head/neck
   infection that extended venous-retrograde into the cavernous sinus
   producing
   [**Last Name (un) 3457**]-Hunt must be considered. The cavernous sinus is not definitely
   thrombosed-yet- as neither it nor the R superior ophthalmic vein is
   enlarged,
   but this should be followed as a potential complication. Very early
   sinus
   thrombosis cannot absolutely be excluded. MRA BRAIN: Normal
   intracranial
   arteries MRA NECK: Normal carotids/vertebrals MRV HEAD: Normal MRV [**Name Initial (MD) **]
   [**Name8 (MD) 3483**] MD
   discussed w/ neurology resident
   Assessment and Plan
   In summary, Ms. [**Known lastname **] is an 18 year old female with likely
   odontogenic infection resulting in cavernous sinus thrombosis, GNR
   bacteremia, and DIC.
   1.  Cavernous sinus thrombosis.  Patient noted to have right ptosis and
   dilated pupil.  Now improved ability to raise right eyelid and ?mild
   reactivity to right eye.  Was briefly anticoagulated yesterday, but
   anticoagulation held with platelets fells to 48 and remained below 50.
   After discussion with heme, will resume anticoagulation after tooth
   extract and transfuse platelets if necessary.
   -          Anticoagulation with heparin after tooth extraction
   -          Monitor neurological exam
   -          Bolus sedation to improve ability to assess mental status
   -          Vanco/cefepime/flagyl/acyclovir
   -          Continue dexamethasone
   2.       ?Meningitis.  Likely inflammation of meniniges due to
   cavernous venous thrombus.  WBC markedly elevated on LP with negative
   gram stain.  HSV PCR , bacterial culture pending.
   -          continue vanco/cefepime/flagyl/acyclovir
   -          consider stopping acyclovir if hsv pcr is negative
   -          appreciate ID recs
   -          f/u blood cultures from OSH
   3.       Sepsis.  Has GNR bacteremia, ?fusobactermia given dental
   source and growth in anaerobic bottles.  Hemodynamically improving off
   pressors.
   -          f/u culture data from [**Hospital1 608**]
   -          continue vanco/cefepime/flagyl/acyclovir
   -          monitor urine output
   2.       Dental infection.  Appears to have right upper wisdom tooth
   infection which spread to pterygoid muscle.  Has GNRs in blood cultures
   from [**Hospital1 608**] in anaerobic bottles concerning for ?fusobacterium.
   -          dental extraction
   -          transfuse platelets prior to dental extraction
   -          drainage of pterygoid muscle abscess
   3.       Septic emboli.  Found to have septic emboli on chest ct with
   ?renal infarct concerning for left and right sided infarction.  Had
   echo yesterday but no bubble study.  Will get TEE with buble study in
   OR today.
   -          bubble study / TEE today
   4.       DIC.   Fibrinogen initially trending down, but now in 400s.
   Platelets stable at 50.  INR remains stable at around 1.6.  Fibrin
   split product mildly rising.  Given that patient has low grade DIC,
   concern for anticoagulation, but will pursue anticoagulation given
   improvement in morbitiy with this approach.
   -          serial DIC labs (q6 hours)
   -          transfuse platelets, cryo as needed
   -          appreciate heme recs
   5.       Elevated intracranial pressure.  Found to have opening pressur
   of 51 on LP, however was intubated with high peep.  Neuro exam is
   unchanged.  Given DIC, will hold off on serial LPs but will consider if
   there is evidence of worsening ICP.
   -          appreciate neuro recs
   6.       Respiratory failureure.  Patient is requiring less and less
   vent support.  Had RSBI this morning of 50.  Given need for several
   procedures (dental extraction, TEE), will keep her intubated for now,
   but may be extubated soon.
   -          pressure support
   -          bolus sedation so that mental status can be assessed
   7.       Renal failure.  Pre-renal ARF is resolving.  Seen by renal who
   does not feel this is consistent with TTP-HUS.  Received several
   contrast loads yesterday and got mucomyst and hydration.
   -          fluid boluses for low urine output
   -          monitor creatinine
   -          really dose all medications
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2105-12-27**] 05:24 PM
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Arterial Line - [**2105-12-27**] 11:45 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2105-12-29 09:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2105-12-28**] 10:17 AM: no vegetations
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2105-12-28**] 03:19 PM
   Metronidazole - [**2105-12-29**] 06:00 AM
   Vancomycin - [**2105-12-29**] 08:04 AM
   Acyclovir - [**2105-12-29**] 08:06 AM
   Cefipime - [**2105-12-29**] 08:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2105-12-28**] 10:39 AM
   Midazolam (Versed) - [**2105-12-29**] 06:53 AM
   Fentanyl - [**2105-12-29**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-29**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 113 (73 - 118) bpm
   BP: 107/54(71) {99/52(67) - 140/69(90)} mmHg
   RR: 24 (22 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 10 (3 - 257)mmHg
   CO/CI (CCO): (7 L/min) / (3.9 L/min/m2)
   Total In:
                                                                  5,519 mL
                                                                  1,428 mL
   PO:
   TF:
   IVF:
                                                                  5,444 mL
                                                                  1,358 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    460 mL
   Urine:
                                                                  1,760 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,759 mL
                                                                    968 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/28/132/18/-3
   Ve: 12.4 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: right pupil minimally responsive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical adenopathy
   Cardiovascular: (PMI Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: No evidence of petechiae, no nail bed,
   sole/palm lesions
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, Right eyelid able to lift
   sightly, minimal right pupil constriction
   Labs / Radiology
   7.8 g/dL
   46 K/uL
   184 mg/dL
   1.1 mg/dL
   18 mEq/L
   3.6 mEq/L
   21 mg/dL
   115 mEq/L
   143 mEq/L
   24.3 %
   12.3 K/uL
        [image002.jpg]
                            [**2105-12-28**]  02:14 AM
                            [**2105-12-28**]  02:52 AM
                            [**2105-12-28**]  10:59 AM
                            [**2105-12-28**]  01:56 PM
                            [**2105-12-28**]  05:42 PM
                            [**2105-12-28**]  07:43 PM
                            [**2105-12-29**]  12:01 AM
                            [**2105-12-29**]  01:16 AM
                            [**2105-12-29**]  05:10 AM
                            [**2105-12-29**]  05:21 AM
   WBC
   28.3
   20.3
   10.2
   10.5
   12.3
   Hct
   27.1
   27.0
   24.5
   24.3
   24.3
   Plt
   75
   69
   48
   48
   46
   Cr
   1.4
   1.1
   1.1
   0.9
   1.1
   TCO2
   17
   17
   18
   20
   20
   Glucose
   109
   158
   164
   185
   184
   Other labs: PT / PTT / INR:16.3/27.3/1.5, CK / CKMB / Troponin-T:53//,
   ALT / AST:22/35, Alk Phos / T Bili:98/2.8, Differential-Neuts:93.6 %,
   Band:2.0 %, Lymph:5.5 %, Mono:0.8 %, Eos:0.0 %, D-dimer:3509 ng/mL,
   Fibrinogen:420 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:210
   IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Imaging: CT scan neck [**12-28**]: 1. Multiple hypodense areas in the
   pterygoid, predominantly in pterygoid
   muscle, also in the parapharyngeal space, and longus [**Last Name (un) **] muscle,
   which is
   indicative for early abscess formation with no discrete collection
   formed yet.
   Extensive right neck tissue swelling and lymphadenopathy as more fully
   characterized on MR from same day with associated superficial vein
   thrombosis.
   TTE [**12-28**]: no vegetations
   Cryptococcal Ag blood 11/10: Neg
   CTA Chest/Abd/Pelv: 1) no central or segmental PE.
   2) tip of endotracheal tube at level of carina. Should be pulled out
   few cms.
   3) multiple areas of consolidation, more on left, probably representing
   infection, septic emboli, or less likely cocaine use or vasculitis.
   4) atelectasis of LLL, could be post aspiration.
   5) small amount of pelvic free fluid.
   6) mild stranding in paracolic regions.
   7) wedge shape hypodense area in right kidney.
   Microbiology: OSH Clx (awaiting spp)
   Blood Clx [**12-27**]: NGTD
   Assessment and Plan
   18 yo female with admission with right sided ptosis, opthalmoplegia,
   neck erythema, with GNR bacteremia (anaerobic bottle) and cavernous
   sinus thrombosis complicated by DIC and acute renal failure now
   improving
   Sinus carvernous thrombosis with GNR in blood and sepsis: R in the
   blood (anaerobic bottle) and meningitis with high OP on CSF and 900
   WBC. Given the imaging findings there is significant concern for a
   evolving cavernous sinus thrombosis along the right side with extension
   to the dura of the temporal lobe. IN conjunction with the neck pain
   this is concerning for a anaerobic process (ie fusobacterium). At
   present we have elected to cover infection broadly with Metronidazole,
   Ampicillin, Cefepime and Vancomycin. Will cont dexamethasone for
   cavernous sinus thrombosis.  We also have added Acyclovir to cover for
   HSV and will continue until we have neg clx data. We  will dicuss
   further with ID and neurosurgery the need for potential
   anti-coagulation for thrombosis. Notably ENT had evaluated and saw no
   evidence of peri-tonsilar abscess and no cord evolvement.
   - Abx as above as well. increasing vanco to 1 g IV q8h (given low level
   on q 12 dosing)
   - NE for MAP goal of > 60 mmHg, 2nd pressor to add would be
   vasopressin.
   - Vigileo with flow track for continous monitoring of the SI and CI and
   optimization of the fluid balance
   - Q 8 hr lactate
   - Goal UOP 0.5 cc/kg/hr
   -  Re clx for fever (blood, urine) [**12-29**]
   - Will plan to go OR for tooth extraction and pterygoid drainage
   - TEE with agitated saline given concern for renal infarct (right
   kidney) and the need for anti-coagulation.
   - F/u CSF studies
   Hypoxemic respi failure: bilateral septic pulmonary emboli. changed to
   PS today, doing very well with minimal vent support.Will remain
   intubated
   - PS ventilation, pulmonary toilet
   DIC/Anemia: evolving DIC physiology with elevated INR, ptt (mild) and
   decreased plts with inappropriately low fibrinogen and elevated FDP.
   The most likely explanation is her evolving GNR bacteremia/meningitis.
   For now our care is supportive. We have discussed with heme and the
   plan is to give supportive plts to keep plts>50 (for surgery) and also
   supportively post surgery when we will need to anti-coagulate
   - peripheral smear
   Anticoagulation: will anticoagulate wit IV heparin. If PLts <50K ,
   INR<2.5 then stop. Goal PTT 50K
   Renal failure: seems to be consistent with at least some component of
   pre-renal , despite clinical signs there is no evidence TTP. She has
   improved markedly over the past 24hrs. Given the multiple contrast
   loads we will continue NAC and IV hydration.
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2105-12-27**] 05:24 PM
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Arterial Line - [**2105-12-27**] 11:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 90 minutes
   Patient is critically ill

2105-12-30 07:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2105-12-30**] 12:00 AM
   >   repeat CT of brain/sinus: ? new infection
   > Tooth removed (#1) and exploration  of the pterygoid plexus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2105-12-28**] 03:19 PM
   Cefipime - [**2105-12-29**] 04:25 PM
   Vancomycin - [**2105-12-29**] 08:00 PM
   Acyclovir - [**2105-12-30**] 12:00 AM
   Metronidazole - [**2105-12-30**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Insulin - Regular - 4.5 units/hour
   Other ICU medications:
   Fentanyl - [**2105-12-30**] 01:00 AM
   Midazolam (Versed) - [**2105-12-30**] 01:51 AM
   Heparin Sodium - [**2105-12-30**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-30**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.4
   HR: 72 (50 - 119) bpm
   BP: 112/49(64) {109/49(64) - 117/76(85)} mmHg
   RR: 19 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 8 (6 - 16)mmHg
   CO/CI (CCO): (6.4 L/min) / (3.5 L/min/m2)
                              Total In:
                                                                  3,335 mL
                                                                  1,445 mL
   PO:
                              TF:
                              91 mL
   IVF:
                                                                  2,859 mL
                                                                  1,069 mL
   Blood products:
                                                                    406 mL
                                                                    286 mL
   Total out:
                                                                  1,390 mL
                                                                    260 mL
   Urine:
                                                                  1,390 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,945 mL
                                                                  1,185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 510 (306 - 6,000) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/32/152/21/-1
   Ve: 9.3 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: right pupil dilated no constriction to light
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace (increasing over the past few
   days)
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): name, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   84 K/uL
   161 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.9 mEq/L
   20 mg/dL
   115 mEq/L
   145 mEq/L
   25.5 %
   9.7 K/uL
        [image002.jpg]
                            [**2105-12-28**]  01:56 PM
                            [**2105-12-28**]  05:42 PM
                            [**2105-12-28**]  07:43 PM
                            [**2105-12-29**]  12:01 AM
                            [**2105-12-29**]  01:16 AM
                            [**2105-12-29**]  05:10 AM
                            [**2105-12-29**]  05:21 AM
                            [**2105-12-29**]  04:09 PM
                            [**2105-12-29**]  04:33 PM
                            [**2105-12-30**]  01:31 AM
   WBC
   20.3
   10.2
   10.5
   12.3
   10.1
   9.7
   Hct
   27.0
   24.5
   24.3
   24.3
   22.2
   25.5
   Plt
   69
   48
   48
   46
   76
   84
   Cr
   1.1
   1.1
   0.9
   1.1
   0.9
   0.8
   TCO2
   18
   20
   20
   22
   Glucose
   158
   164
   185
   184
   240
   161
   Other labs: PT / PTT / INR:17.4/40.4/1.6, CK / CKMB / Troponin-T:40//,
   ALT / AST:24/30, Alk Phos / T Bili:82/1.4, Differential-Neuts:89.4 %,
   Band:2.0 %, Lymph:8.6 %, Mono:1.9 %, Eos:0.0 %, D-dimer:3509 ng/mL,
   Fibrinogen:420 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:216
   IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   CXR [**12-29**]:
   Gram stain from surgery [**2105-12-28**]: neg
   All blood clx NGTD
   CT sinus/brain ([**2105-12-29**]) WET READ
   Extensive right-sided facial swelling. Sinus disease within the
   right-sided
   paranasal sinuses including dense secretions within the right sphenoid
   sinus
   which may represent inspissated secretions versus an infectious process
   such
   as fungal infection. No bony erosive changes evident.
   Assessment and Plan
   18 yo female with admission with right sided ptosis, opthalmoplegia,
   neck erythema, with GNR bacteremia (anaerobic bottle) and cavernous
   sinus thrombosis complicated by DIC now s/p removal of tooth #1 and
   exploration of the pterygoid muscle.
   >Sinus carvernous thrombosis with GNR in blood and sepsis: R in the
   blood (anaerobic bottle) and meningeal inflammation. She currently has
   a cavernous sinus thrombosis along the right side with extension to the
   dura of the temporal lobe. IN conjunction with the neck pain this is
   concerning for a anaerobic process (ie fusobacterium). At present we
   have elected to cover infection broadly with Metronidazole, Cefepime
   and Vancomycin. Will cont dexamethasone for cavernous sinus
   thrombosis.  We also have added Acyclovir to cover for HSV and will
   continue until we have neg clx data. She is currently being
   anti-coagulated with a goal apt for 50-60 for cavernous sinus
   thrombosis as there is a body of data which shows significantly lower
   morbidity with anticoagulation. ID team agrees with anti-coagulation.
   TEE was negative for ASD (not specifically mentioned that she had no
   PFO)
   - Abx as above as well. increasing vanco to 1 g IV q8h (given low level
   on q 12 dosing and will check
   - Vigileo with flow track for contins monitoring of the SI and CI and
   optimization of the fluid balance
   - Q 8 hr lactate
   - Goal UOP 0.5 cc/kg/hr
   -  Re clx for fever (blood, urine) [**12-29**]. Cont to follow up initial Clx
   data (now in our system)
   - Will discuss new imaging head and sinus CT with neurosurgery and OMF
   [**Doctor First Name 213**]. .
   - F/u CSF studies: HSV (cont acyclovir)
    >Hypoxemic resp failure: bilateral septic pulmonary emboli. Has
   remained on PS and is doing very well with minimal vent support.. Will
   remain intubated pending further discussion with OMF and neurosurg  (ie
   further procedures)
   - PS ventilation, pulmonary toilet
   >DIC/Anemia: DIC physiology with elevated INR, ptt (mild) and decreased
   plts with inappropriately low fibrinogen and elevated FDP. The most
   likely explanation is her evolving GNR bacteremia/meningitis. For now
   our care is supportive. She has continued to increase her fibrinogen
   and her plts responded appropriately
   - Follow DIC labs
   >Anticoagulation: will anticoagulate wit IV heparin. If PLts <50K ,
   INR<2.5 then stop. Goal aPTT 50-60.
   >Renal failure: seems to be consistent with at least some component of
   pre-renal , despite clinical signs there is no evidence TTP. She has
   improved markedly over the past 24hrs. Given the multiple contrast
   loads we will continue NAC and IV hydration and cont to monitor
   electrolyte function.
   - let her set I/O goal
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2105-12-30**] 02:00 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2105-12-30 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tooth removed by OMFS - not large quantity of pus aspirated, cxs sent
   Drain placed in retromandibular space
   TEE done in OR - no PFO, no endocarditis
           No spontaneous echo contrast is seen in the left atrial
   appendage.
           Left ventricular wall thicknesses and cavity size are normal.
           Right ventricular chamber size and free wall motion are normal.
          The ascending, transverse and descending thoracic aorta nl in
   diameter, free of atherosclerotic plaque.
          Tricuspid/pulmonic valves structurally nl, with no regurgitation
   or abnormal masses.
          The AV leaflets (3) structurally nl with good leaflet excursion,
   no AR.  MV appears nl.
          No pericardial effusion.
          No evidence of ASD. No evidence of endocarditis.
   Anticoagulation restarted at 5pm
   TFs started at 7pm
   Started insulin gtt
   CT head [**12-29**]:
        Extensive right-sided facial swelling. Sinus disease within the
   right-sided
        paranasal sinuses including dense secretions within the right
   sphenoid sinus
        which may represent inspissated secretions versus an infectious
   process such
        as fungal infection. No bony erosive changes evident.
   Called neurosurgery 2am to assess possible worsening of "abscess," will
   re-eval in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2105-12-28**] 03:19 PM
   Vancomycin - [**2105-12-29**] 08:00 PM
   Acyclovir - [**2105-12-30**] 12:00 AM
   Metronidazole - [**2105-12-30**] 06:00 AM
   Cefipime - [**2105-12-30**] 07:42 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Insulin - Regular - 4.5 units/hour
   Other ICU medications:
   Fentanyl - [**2105-12-30**] 01:00 AM
   Midazolam (Versed) - [**2105-12-30**] 01:51 AM
   Heparin Sodium - [**2105-12-30**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-30**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.4
   HR: 72 (50 - 119) bpm
   BP: 112/49(64) {109/49(64) - 117/76(85)} mmHg
   RR: 19 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 8 (6 - 16)mmHg
   CO/CI (CCO): (6.4 L/min) / (3.5 L/min/m2)
                               Total In:
                                                                  3,335 mL
                                                                  1,513 mL
   PO:
                               TF:
                               99 mL
   IVF:
                                                                  2,859 mL
                                                                  1,127 mL
   Blood products:
                                                                    406 mL
                                                                    286 mL
   Total out:
                                                                  1,390 mL
                                                                    260 mL
   Urine:
                                                                  1,390 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,945 mL
                                                                  1,253 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 510 (306 - 6,000) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/32/152/21/-1
   Ve: 9.3 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   84 K/uL
   8.3 g/dL
   161 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.9 mEq/L
   20 mg/dL
   115 mEq/L
   145 mEq/L
   25.5 %
   9.7 K/uL
        [image002.jpg]
                            [**2105-12-28**]  01:56 PM
                            [**2105-12-28**]  05:42 PM
                            [**2105-12-28**]  07:43 PM
                            [**2105-12-29**]  12:01 AM
                            [**2105-12-29**]  01:16 AM
                            [**2105-12-29**]  05:10 AM
                            [**2105-12-29**]  05:21 AM
                            [**2105-12-29**]  04:09 PM
                            [**2105-12-29**]  04:33 PM
                            [**2105-12-30**]  01:31 AM
   WBC
   20.3
   10.2
   10.5
   12.3
   10.1
   9.7
   Hct
   27.0
   24.5
   24.3
   24.3
   22.2
   25.5
   Plt
   69
   48
   48
   46
   76
   84
   Cr
   1.1
   1.1
   0.9
   1.1
   0.9
   0.8
   TCO2
   18
   20
   20
   22
   Glucose
   158
   164
   185
   184
   240
   161
   Other labs: PT / PTT / INR:17.4/40.4/1.6, CK / CKMB / Troponin-T:40//,
   ALT / AST:24/30, Alk Phos / T Bili:82/1.4, Differential-Neuts:89.4 %,
   Band:2.0 %, Lymph:8.6 %, Mono:1.9 %, Eos:0.0 %, D-dimer:3509 ng/mL,
   Fibrinogen:420 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:216
   IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: Echo: [**2105-12-29**].
   This was a directed study to r/o evidence of endocarditis, as well as
   to r/o ASD.
   No spontaneous echo contrast is seen in the left atrial appendage.
   Left ventricular wall thicknesses and cavity size are normal.
   Right ventricular chamber size and free wall motion are normal.
   The ascending, transverse and descending thoracic aorta are normal in
   diameter and free of atherosclerotic plaque.
   The tricuspid and pulmonic valves appear structurally normal, with no
   regurgitation or abnormal masses.
   The aortic valve leaflets (3) appear structurally normal with good
   leaflet excursion and no aortic regurgitation. The mitral valve appears
   structurally normal with trivial mitral regurgitation.
   There is no pericardial effusion.
   No evidence of ASD. No evidence of endocarditis.
   Imaging: CT head: [**2105-12-29**]
   IMPRESSION:
   1. Predominantly right-sided sinus disease as described above.
   Increased
   density of the right sphenoid sinus material may represent inspissated
   secretions or less likely fungal sinusitis. Clinical correlation is
   recommended. No bony change of the sinuses is noted.
   2. Probable 8 mm right temporal lobe hypodense lesion which may
   represent
   partial volume averaging or early intracranial inflammatory or
   infective or
   ischemic focus. Assessment is somewhat limited due to lack of
   pre-contrast
   images. tMRI head without and with conrast is recommended for further
   assessment.
   3. Persistent hypodense areas within the right pterygoid muscle, not
   significantly changed compared to the CT from one day prior, phlegmon
   versus
   early abscess. This is inadequatey evaluated on the present study.
   4. Extensive right-sided facial and neck swelling, incompletely
   visualized on
   this CT of the head. Pl. see the CT Neck report done a day earlier.
   Findings reviewed with Dr. [**First Name (STitle) 3523**] at 11:30 pm by Dr. [**First Name (STitle) 3524**].
   Findings and recommendation were also discussed with Dr.[**First Name (STitle) **] and
   [**Doctor Last Name 3525**] by
   Dr.[**Last Name (STitle) **] on [**2105-12-30**]. Approval of the report was delayed due to the
   delay in
   obtaining the necessary bone algorithm images for the CT sinuses.
   CXR.  [**2105-12-29**].
   IMPRESSION:
   1. Stable appearance of support lines as described.
   2. Improved bilateral airspace consolidation, which may represent
   improved
   volume status; however, underlying ARDS and/or multifocal pneumonia
   cannot be
   excluded.
   Assessment and Plan
   In summary, Ms. [**Known lastname **] is an 18 year old female with likely
   odontogenic infection resulting in cavernous sinus thrombosis, GNR
   bacteremia, and DIC.
   1.  Cavernous sinus thrombosis.  Patient noted to have right ptosis and
   dilated pupil upon admission with stable neuro exam.  Getting
   anticoagulated with heparin for thrombus with goal PTT of 50-60.  Will
   transfuse platelets if < 50, though stable today after platelet
   transfusion yesterday prior to dental extraction.  Remains on broad
   spectrum antibiotics.
   -          Anticoagulation with heparin
   -          Monitor neurological exam
   -          Minimize sedation to monitor neuro exam (will switch
   propofol)
   -          Vanco/cefepime/flagyl/acyclovir
   -          Continue dexamethasone
   2.       ?temporal lobe abscess.  Head CT showed temporal lobe
   hypodensity with concern for possible abscess overnight.  On official
   read, study is limited.
   - neurosurg consult re:? need for surgical drainage of ??? abscess or
   need for further imaging
   3.       ?Meningitis.  Likely inflammation of meniniges due to
   cavernous venous thrombus.  WBC markedly elevated on LP with negative
   gram stain, and NGTD.  HSV PCR , bacterial culture pending.
   -          continue vanco/cefepime/flagyl/acyclovir
   -          consider stopping acyclovir if hsv pcr is negative
   -          appreciate ID recs
   -          f/u HSV PCR, csf culture
   -          f/u blood cultures from OSH
   4.       Sepsis.  Has GNR bacteremia, ?fusobactermia given dental
   source and growth in anaerobic bottles.  Hemodynamically improving off
   pressors.
   -          f/u culture data from [**Hospital1 608**]
   -          f/u pharyngeal and masticator space aspirate
   -          continue vanco/cefepime/flagyl/acyclovir\
   5.        Thrombocytopenia.  Received platelets prior to dental
   extraction, but platelets now stable.  Thrombocytopenia likely
   secondary to DIC.
   - follow platelets
   .
   6.        Dental infection.  Appears to have right upper wisdom tooth
   infection which spread to pterygoid muscle.  Has GNRs in blood cultures
   from [**Hospital1 608**] in anaerobic bottles concerning for ?fusobacterium.
   Underwent dental extraction on [**2105-12-29**].  Only able to drain a few ccs
   from parapharyngeal and masticator space.
   -          f/u cultures from dental surgery
   -          drain removal tomorrow
   7.       Septic emboli.  Found to have septic emboli on chest ct with
   ?renal infarct concerning for left and right sided infarction.  TEE
   showed no ASD, though did not evaluate with agitated saline for PFO.
   8.       DIC.   Fibrinogen falling today.  Platelets stable. INR
   trending down, now 1.5.  Fibrin split product mildly rising.  Given
   that patient has low grade DIC, concern for anticoagulation, but will
   pursue anticoagulation given improvement in morbitiy with this
   approach.
    - serial DIC labs (q6 hours)
   - transfuse platelets, cryo as needed
            - appreciate heme recs
   9.       Elevated intracranial pressure.  Found to have opening pressur
   of 51 on LP, however was intubated with high peep.  Neuro exam is
   unchanged.  Given DIC, will hold off on serial LPs but will consider if
   there is evidence of worsening ICP.
   - appreciate neuro recs
   9.  Respiratory failure.  Patient is requiring less and less vent
   support.  Will likely extubate today
   - continue with pressure support
   - propofol for sedation
   10.    Renal failure.  Pre-renal ARF is resolving.  Seen by renal who
   does not feel this is consistent with TTP-HUS.  Received several
   contrast loads yesterday and got mucomyst and hydration.
   - fluid boluses for low urine output
   -  monitor creatinine
   - really dose all medications
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2105-12-30**] 02:00 AM 25 mL/hour.  Hold tube
   feeds for possible extubation.
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Prophylaxis:
   DVT: therapeutic heparin
   Stress ulcer: PPI
   VAP:  vap precautions
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2105-12-31 07:25:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events:
   - Cultures still pending.
   - Heparin gtt continued (increased to 1200), platelets greater than
   100.
   - Neuro recs: MRI to further eval area with concern for abscess;
   holding off on but potentially will schedule today (not yet ordered).
   - Neurosurg recs: no intervention planned.
   - ID recs: increased vanco to 1500 Q12, rec d/c acyclovir (not yet
   done, HSV PCR still pending).
   - OMFS recs: will likely remove drain today.
   - ENT swabbed middle turbinates, sent for culture.  Also recommended
   Afrin x 3 days and saline nasal rinse [**Hospital1 7**] (not yet in)
   - Given lack of interventions planned; sedation changed to propofol,
   lightened and extubated.
   - Following extubation, cranial nerve exam with little change from
   prior.  Some ?delerium - slighly odd behavior; but able to recognize
   family and have meaningful conversations, oriented.  Cranial nerve
   findings unchanged.  Ptosis with slight eye opening.  R pupil with
   efferent deficit, stills seems unable to move R eye in any direction
   but laterally, gross visual acuity intact (does report blurriness).
   Peripheral strength exam intact.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2105-12-28**] 03:19 PM
   Vancomycin - [**2105-12-30**] 08:00 PM
   Acyclovir - [**2105-12-31**] 12:00 AM
   Cefipime - [**2105-12-31**] 12:00 AM
   Metronidazole - [**2105-12-31**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2105-12-30**] 12:10 PM
   Fentanyl - [**2105-12-30**] 02:38 PM
   Pantoprazole (Protonix) - [**2105-12-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-31**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 51 (51 - 87) bpm
   BP: 133/70(84) {109/48(66) - 140/89(102)} mmHg
   RR: 27 (14 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 12 (9 - 12)mmHg
   Total In:
                                                                  3,232 mL
                                                                    685 mL
   PO:
   TF:
                                                                    181 mL
   IVF:
                                                                  2,685 mL
                                                                    685 mL
   Blood products:
                                                                    286 mL
   Total out:
                                                                    986 mL
                                                                    255 mL
   Urine:
                                                                    986 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,246 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 425 (127 - 505) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 37%
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: 7.43/34/94.[**Numeric Identifier 126**]/21/0
   Ve: 0 L/min
   PaO2 / FiO2: 94
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL, R ptosis with slight eye opening.
   Pupil fixed with no constriction (unchanged).  Movement laterally only,
   cannot move up/down/medially.  Gross vision intact in that eye.
   Head, Ears, Nose, Throat: Normocephalic, some dried blood in OP.
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended.
   Bruising in lower lumbar back ?at LP site.  Skin otherwise normal.
   Extremities: Right: 1+, Left: 1+
   Neurologic: Alert, slightly
childish
 in affect, fully oriented.  Does
   not recall events of yesterday (post extubation).  Able to talk about
   family and friends.  [**Name (NI) **] follow complex commands.  Eye exam as above.
   Hypoaesthesia of R side of face (seems to be V1 thru V3 in
   distribution.  Uvula still leftward, palate symmetric.  Peripheral
   strength and DTRs intact.
   [**Name2 (NI) 582**] / Radiology
   108 K/uL
   8.3 g/dL
   148 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.4 mEq/L
   29 mg/dL
   114 mEq/L
   144 mEq/L
   25.2 %
   10.4 K/uL
        [image002.jpg]
                            [**2105-12-29**]  01:16 AM
                            [**2105-12-29**]  05:10 AM
                            [**2105-12-29**]  05:21 AM
                            [**2105-12-29**]  04:09 PM
                            [**2105-12-29**]  04:33 PM
                            [**2105-12-30**]  01:31 AM
                            [**2105-12-30**]  08:05 AM
                            [**2105-12-30**]  12:30 PM
                            [**2105-12-30**]  06:39 PM
                            [**2105-12-31**]  04:30 AM
   WBC
   12.3
   10.1
   9.7
   9.9
   11.1
   10.4
   Hct
   24.3
   22.2
   25.5
   25.4
   25.5
   25.2
   Plt
   46
   76
   84
   108
   91
   108
   Cr
   1.1
   0.9
   0.8
   0.8
   0.9
   1.0
   TCO2
   20
   20
   22
   23
   Glucose
   184
   240
   161
   116
   100
   148
   Other [**Year (4 digits) **]: PT / PTT / INR:18.6/60.9/1.7, CK / CKMB / Troponin-T:40//,
   ALT / AST:28/29, Alk Phos / T Bili:73/1.6, Differential-Neuts:91.6 %,
   Band:2.0 %, Lymph:6.2 %, Mono:2.0 %, Eos:0.1 %, D-dimer:3509 ng/mL,
   Fibrinogen:244 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:273
   IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   In summary, Ms. [**Known lastname **] is an 18 year old female with likely
   odontogenic infection resulting in cavernous sinus thrombosis, GNR
   bacteremia (likely Fusobacterium), and DIC.
   1.  Septic cavernous sinus thrombosis.  Patient noted to have right
   ptosis and dilated pupil upon admission with subsequent stable neuro
   exam.  Getting anticoagulated with heparin for thrombus with goal PTT
   of 50-60.  Will transfuse platelets if < 50, though have been well
   above that.  Remains on broad spectrum antibiotics.  Meningitis picture
   also explained by this diagnosis.
   -          Anticoagulation with heparin as above, continue at 1200/hr.
   -          Monitor neurological exam and mental status exam very
   closely.
   -          cefepime/flagyl/vanc, d/c acyclovir.
   -          Continue dexamethasone
   -          Followup cultures.
   -          Appreciate ID, neurology, neurosurgery recs.
   2.       Possible temporal lobe abscess.  Head CT showed temporal lobe
   hypodensity with concern for possible abscess vs. inflammation vs.
   artifact.  Discussed with neurology and neurosurgery; no plan for
   intervention.
   -          F/u neurosurgery recs
   -          Consider MRI with gad today (if can tolerate, but seems
   unlikely this morning
 unable to sit still) for further evaluation.
   3.       Sepsis/shock.  GNR bacteremia, likely fusobacterium given
   dental source and growth in anaerobic bottles (final ID pending).
   Likely Lemierres with septic emboli plus cavernous sinus thrombosis.
   Hemodynamically improved.
   -          f/u culture data from [**Hospital1 608**]
   -          f/u pharyngeal and masticator space aspirate, other culture
   data
   -          continue vanco/cefepime/flagyl and follow ID recs.
   4.    Respiratory failure.  Patient extubated yesterday and doing
   well.  Has known septic emboli as above.
   - continue O2 support as needed.
   - consider repeat CT chest at some point.
   - small dose (10 IV) lasix today.
   5.        Thrombocytopenia/DIC.  Received platelets prior to dental
   extraction, but platelets now stable, >100.  F
gen stable.
           -   follow platelets; should not need further transfusion given
   improvement.
           -   serial DIC [**Hospital1 **] (q6-8 hours)
           -   appreciate heme recs
   .
   6.        Dental infection.  Appears to have right upper wisdom tooth
   infection which spread to pterygoid muscle.  Has GNRs in blood cultures
   from [**Hospital1 608**] in anaerobic bottles concerning for ?fusobacterium.
   Underwent dental extraction on [**2105-12-29**].
   -          f/u cultures from dental surgery.
   -          drain removal today.
   7.       Septic emboli.  Found to have septic emboli on chest ct
   (consistent with diagnosis of Lemierres).   Also with ?renal infarct
   concerning for left and right sided infarction.  No other identified
   potential systemic lesions.  TEE showed no ASD, though did not evaluate
   with agitated saline for PFO.  No vegetations.
                         - consider reimage chest at some point to
   evaluate evolution.
   8.       Elevated intracranial pressure.  Found to have opening pressur
   of 51 on LP, however was intubated with high peep.  Neuro exam is
   unchanged.  Given DIC, will hold off on serial LPs but will consider if
   there is evidence of worsening ICP.  Per neuro, papilledema of R eye
   resolved.
   9.       Renal failure.  Pre-renal ARF is resolving.  Seen by renal who
   does not feel this is consistent with TTP-HUS.  Received several
   contrast loads in past few days, got mucomyst and hydration.
   - fluid boluses for low urine output
   -  keep euvolemic if planning further contrast loads.
   ICU Care
   Nutrition:
   Comments: trial of PO today
   Glycemic Control:  Regular insulin sliding scale (may need to restart
   gtt is hyperglycemic)
   Lines:
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2105-12-31 07:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Extubated and doing well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2105-12-28**] 03:19 PM
   Vancomycin - [**2105-12-30**] 08:00 PM
   Acyclovir - [**2105-12-31**] 12:00 AM
   Cefipime - [**2105-12-31**] 12:00 AM
   Metronidazole - [**2105-12-31**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2105-12-30**] 12:10 PM
   Fentanyl - [**2105-12-30**] 02:38 PM
   Pantoprazole (Protonix) - [**2105-12-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-31**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 51 (51 - 87) bpm
   BP: 133/70(84) {109/48(66) - 140/89(102)} mmHg
   RR: 27 (14 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 12 (9 - 12)mmHg
   Total In:
                                                                  3,232 mL
                                                                    704 mL
   PO:
   TF:
                                                                    181 mL
   IVF:
                                                                  2,685 mL
                                                                    704 mL
   Blood products:
                                                                    286 mL
   Total out:
                                                                    986 mL
                                                                    255 mL
   Urine:
                                                                    986 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,246 mL
                                                                    449 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 425 (127 - 505) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 37%
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: 7.43/34/94.[**Numeric Identifier 126**]/21/0
   Ve: 0 L/min
   PaO2 / FiO2: 94
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, no rash, ecchymosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed,
   Right eyelid with some movement, vision intact. Pupil constricted. V1/2
   hypothesia. Able to move eye lateralll, some small amount of elevation
   and depression. Peripheral exam WNL(strength and DTR)
   Labs / Radiology
   8.3 g/dL
   108 K/uL
   148 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.4 mEq/L
   29 mg/dL
   114 mEq/L
   144 mEq/L
   25.2 %
   10.4 K/uL
        [image002.jpg]
                            [**2105-12-29**]  01:16 AM
                            [**2105-12-29**]  05:10 AM
                            [**2105-12-29**]  05:21 AM
                            [**2105-12-29**]  04:09 PM
                            [**2105-12-29**]  04:33 PM
                            [**2105-12-30**]  01:31 AM
                            [**2105-12-30**]  08:05 AM
                            [**2105-12-30**]  12:30 PM
                            [**2105-12-30**]  06:39 PM
                            [**2105-12-31**]  04:30 AM
   WBC
   12.3
   10.1
   9.7
   9.9
   11.1
   10.4
   Hct
   24.3
   22.2
   25.5
   25.4
   25.5
   25.2
   Plt
   46
   76
   84
   108
   91
   108
   Cr
   1.1
   0.9
   0.8
   0.8
   0.9
   1.0
   TCO2
   20
   20
   22
   23
   Glucose
   184
   240
   161
   116
   100
   148
   Other labs: PT / PTT / INR:18.6/60.9/1.7, CK / CKMB / Troponin-T:40//,
   ALT / AST:28/29, Alk Phos / T Bili:73/1.6, Differential-Neuts:91.6 %,
   Band:2.0 %, Lymph:6.2 %, Mono:2.0 %, Eos:0.1 %, D-dimer:3509 ng/mL,
   Fibrinogen:244 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:273
   IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   CXR:  [**12-31**] removal of ET tube. Increasing density consistent with
   septic PE
   Assessment and Plan
   18 yo female with admission with right sided ptosis, opthalmoplegia,
   neck erythema, with GNR bacteremia (anaerobic bottle) and cavernous
   sinus thrombosis complicated by DIC now s/p removal of tooth #1 and
   exploration of the pterygoid muscle with extubation on [**12-30**].
     >Sinus carvernous thrombosis with GNR in blood and sepsis: R in the
   blood (anaerobic bottle: presumed fusobacterium) and meningeal
   inflammation. She currently has a cavernous sinus thrombosis along the
   right side with extension to the dura of the temporal lobe. IN
   conjunction with the neck pain this is concerning for a anaerobic
   process (ie fusobacterium). At present we have elected to cover
   infection broadly with Metronidazole, Cefepime and Vancomycin. Will
   cont dexamethasone for cavernous sinus thrombosis. She is currently
   being anti-coagulated with a goal apt for 50-60 for cavernous sinus
   thrombosis as there is a body of data  (see chart for specifica
   references) which shows significantly lower morbidity with
   anticoagulation and one reference which demonstrates decreased
   mortality. ID team agrees with anti-coagulation.  Appreciate ID team
   input. TEE was negative for ASD (not specifically mentioned that she
   had no PFO) and she has had the #1 tooth removed (appreciate OMF
   input), likely to remove drain today. Of late, her CSF for  HSV and EBV
   is neg and we will stop the Acyclovir [**12-31**].
   - Abx as above as well. increasing vanco to 1 g IV q8h (given low level
   on q 12 dosing and will check
   - Goal UOP 0.5 cc/kg/hr. Favor I/E goal even, but will not give lasix
   today.
   -  Re clx for fever (blood, urine) [**12-29**]. Cont to follow up initial Clx
   data (now in our system: prelim info is fusobacterium)
   - discuss with Neurosurgery re: timing of repeat MRI. Per Neurosurg
   team there is no plan for intervention based on current lesion location
   and size.
   >Hypoxemic resp failure: bilateral septic pulmonary emboli, now
   extubated and doing well. Would favor running I/O goal even if possible
   - Pulm toilet
   >DIC/Anemia: DIC physiology with elevated INR, ptt (mild) and decreased
   plts with inappropriately low fibrinogen and elevated FDP. The most
   likely explanation is her evolving GNR bacteremia/meningitis. For now
   our care is supportive. Her fibrinogen of late is trending down,
   however plts and coags are stable.  We will cont to follow very
   closely, concerned. Appreciate hematology input.
   - Follow DIC labs
   >Anticoagulation: will anticoagulate wit IV heparin. If PLts <50K ,
   INR<2.5 then stop. Goal aPTT 50-60.
   >Renal failure: initially pre-renal, and now resolved. She conts to do
   well.
   - Will gently diurese today.
    > Sinusitis: conservative management with affrin and NS nasal, broad
   spectrum Abx. Appreciate ENT input
   > Swallowing function: will contact SLP to eval swallowing function.
   Other issues per ICU resident note
   Will d/c vancomycin and start steroid [**Doctor Last Name 3564**].
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-01-01 07:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2105-12-31**] 07:59 AM
   Vancomycin - [**2105-12-31**] 07:59 AM
   Cefipime - [**2105-12-31**] 04:03 PM
   Ceftriaxone - [**2105-12-31**] 08:00 PM
   Metronidazole - [**2106-1-1**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-12-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-1**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 67 (52 - 75) bpm
   BP: 144/77(95) {131/61(77) - 156/114(119)} mmHg
   RR: 26 (17 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,461 mL
                                                                    570 mL
   PO:
             TF:
   IVF:
                                                                  2,461 mL
                                                                    570 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    455 mL
   Urine:
                                                                  1,105 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,356 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Pupils dilated, right pupil fixed dilated
   Lymphatic: Cervical adenopathy, decreasing cerv adenop
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : 1/2 up bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): x3, Movement: Purposeful, Tone: Normal, Cranial nerve
   exam: Right eye lid ptosis, vision intact, but with diplopia, no pupil
   response. V1 hypothesia, V2intact to sensation
   Uvula deviated to left. Peripheral exam normal
   Labs / Radiology
   8.0 g/dL
   161 K/uL
   179
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   28 mg/dL
   116 mEq/L
   145 mEq/L
   24.3 %
   12.4 K/uL
        [image002.jpg]
                            [**2105-12-29**]  04:33 PM
                            [**2105-12-30**]  01:31 AM
                            [**2105-12-30**]  08:05 AM
                            [**2105-12-30**]  12:30 PM
                            [**2105-12-30**]  06:39 PM
                            [**2105-12-31**]  04:30 AM
                            [**2105-12-31**]  10:17 AM
                            [**2105-12-31**]  05:56 PM
                            [**2106-1-1**]  03:36 AM
                            [**2106-1-1**]  06:00 AM
   WBC
   9.7
   9.9
   11.1
   10.4
   12.5
   11.5
   12.4
   Hct
   25.5
   25.4
   25.5
   25.2
   25.5
   24.2
   24.3
   Plt
   84
   108
   91
   108
   113
   127
   161
   Cr
   0.8
   0.8
   0.9
   1.0
   1.0
   0.9
   0.9
   TCO2
   22
   23
   Glucose
   161
   116
   100
   148
   173
   152
   135
   179
   Other labs: PT / PTT / INR:21.3/57.4/2.0, CK / CKMB / Troponin-T:40//,
   ALT / AST:28/29, Alk Phos / T Bili:73/1.6, Differential-Neuts:91.6 %,
   Band:2.0 %, Lymph:6.2 %, Mono:2.0 %, Eos:0.1 %, D-dimer:3509 ng/mL,
   Fibrinogen:235 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:273
   IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR11/14: increasing volume superimposed on b/l septic pulm
   emboli.
   Assessment and Plan
   18 yo female with admission with right sided ptosis, opthalmoplegia,
   neck erythema, with GNR bacteremia (anaerobic bottle) and cavernous
   sinus thrombosis complicated by DIC now s/p removal of tooth #1 and
   exploration of the pterygoid muscle with extubation on [**12-30**].
    >Sinus carvernous thrombosis with GNR in blood and sepsis: R in the
   blood (anaerobic bottle: fusobacterium) and meningeal inflammation. She
   currently has a cavernous sinus thrombosis along the right side with
   extension to the dura of the temporal lobe. IN conjunction with the
   neck pain this is concerning for a anaerobic process (ie
   fusobacterium). At present we have elected to cover infection broadly
   with Metronidazole, Cefepime and Vancomycin (initially). Will cont
   dexamethasone for cavernous sinus thrombosis. She is currently being
   anti-coagulated with a goal apt for 50-60 for cavernous sinus
   thrombosis as there is a body of data  (see chart for specifica
   references) which shows significantly lower morbidity with
   anticoagulation and one reference which demonstrates decreased
   mortality. ID team agrees with anti-coagulation.  Appreciate ID team
   input. TEE was negative for ASD (not specifically mentioned that she
   had no PFO) and she has had the #1 tooth removed (appreciate OMF
   input).Of late, her CSF for  HSV and EBV is neg and we stopped
   Acyclovir [**12-31**].   In conferring with ID we decided to change the Abx
   regimen to high dose Ceftriaxone (stopping Vancomycin and Cefepime) and
   continuing Metronidazole.
   - Abx as above, with a planned [**5-24**] week course. Will plan for PICC
   placement (but defer for now based on anti-coag at present).
   - Plan for repeat MRI with gad (as soon as she can tolerate from a resp
   standpoint)
   - Steroid taper (cut dose to dexamethasone 10 mg IV q 12h)
    >Hypoxemic resp failure: bilateral septic pulmonary emboli, now
   extubated and with slightly increased O2 requirement and a worsening
   CXR (consistent with volume), there are definite septic emboli which
   are also likely contributing to V/Q mismatch.
   - Pulm toilet: OOB to chair,
   - Goal net out 500 cc to 1L
   >DIC/Anemia: DIC physiology with elevated INR, ptt (mild) and decreased
   plts with inappropriately low fibrinogen and elevated FDP. The most
   likely explanation is her evolving GNR bacteremia/meningitis. For now
   our care is supportive.  We will cont to follow very closely,
   concerned. Appreciate hematology input.
   - Follow DIC lab. Unclear why the INR is rising, ? related to heparin
   vs nutriotional deficiency (Vit K).
    >Anticoagulation: will anticoagulate wit IV heparin. If PLts <50K ,
   INR<2.5 then stop. Goal aPTT 50-60.
   >Renal failure: initially pre-renal, and now resolved. She conts to do
   well.
   - Will gently diurese today.
   -  follow electrolytes closely
   > Sinusitis: conservative management with affrin and NS nasal, broad
   spectrum Abx. Appreciate ENT input
   > Swallowing function: appreciate SLP cont mechanical ground and
   advance as tolerate
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-01-01 07:48:00 Physician Resident Progress Note
Chief Complaint: cavernous sinus thrombosis
   24 Hour Events:
   - Blood cultures from [**Hospital1 **] positive for Fusobacterium
   - Patient started on Afrin and Nasal saline sprays for sinusitus
   - PTT up to 75.8, so  heparin drip lowered to 1000 U/hr, then down to
   57.4 (no changes made)
   - Fibrin split products increasing, fibrinogen stable, INR rising
   - CXR read as: Worsening multifocal opacities compatibile with
   prgoressive infection
   - renal signed off
   - acyclovir stopped as HSV PCR was negative
   - Neurology recommends repeat MRI with gad, abx for 4-6 weeks, and
   consider steroid taper
   - ID recommended stopping Vanco/Cefepime/Acyclovir and switching to
   Ceftriaxone/Flagyl.
   - Heme/onc feels her early DIC is improving
   - Dr. [**First Name (STitle) 734**] (oral surgery) removed drain in mouth and unsure if source
   of infection was tooth as cultures from dental extraction remain
   negative
   - feeling more and more SOB overnight, tachypneic.  Supplemental oxygen
   increased, lasix 10 IV given.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2105-12-31**] 07:59 AM
   Vancomycin - [**2105-12-31**] 07:59 AM
   Cefipime - [**2105-12-31**] 04:03 PM
   Ceftriaxone - [**2105-12-31**] 08:00 PM
   Metronidazole - [**2106-1-1**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-12-31**] 08:00 AM
   Other medications:
   Heparin
   Saline spray\
   Ceftriaxone
   Ferrous sulfate 325 daily
   Afrin
   Artifical tear
   Pantoprazole
   Insulin SS
   Dexamethasone 10 q 6 hours
   Zofran prn
   Flagyl 500 IV q 6 hours
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-1**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 67 (52 - 75) bpm
   BP: 144/77(95) {131/61(77) - 156/114(119)} mmHg
   RR: 26 (17 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,461 mL
                                                                    580 mL
   PO:
             TF:
   IVF:
                                                                  2,461 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    455 mL
   Urine:
                                                                  1,105 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,356 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL, Left pupil - reactive, right pupil
   nonreactive, dilated, irregular.  Unable to lift right eyelid more than
   1-2 cm. Right eye can move laterally (abduct) only.
   Head, Ears, Nose, Throat: Normocephalic, Right V1 & V2 numbness.
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered, greatest at
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   161 K/uL
   8.0 g/dL
   179
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   28 mg/dL
   116 mEq/L
   145 mEq/L
   24.3 %
   12.4 K/uL
        [image002.jpg]
                            [**2105-12-29**]  04:33 PM
                            [**2105-12-30**]  01:31 AM
                            [**2105-12-30**]  08:05 AM
                            [**2105-12-30**]  12:30 PM
                            [**2105-12-30**]  06:39 PM
                            [**2105-12-31**]  04:30 AM
                            [**2105-12-31**]  10:17 AM
                            [**2105-12-31**]  05:56 PM
                            [**2106-1-1**]  03:36 AM
                            [**2106-1-1**]  06:00 AM
   WBC
   9.7
   9.9
   11.1
   10.4
   12.5
   11.5
   12.4
   Hct
   25.5
   25.4
   25.5
   25.2
   25.5
   24.2
   24.3
   Plt
   84
   108
   91
   108
   113
   127
   161
   Cr
   0.8
   0.8
   0.9
   1.0
   1.0
   0.9
   0.9
   TCO2
   22
   23
   Glucose
   161
   116
   100
   148
   173
   152
   135
   179
   Other labs: PT / PTT / INR:21.3/57.4/2.0, CK / CKMB / Troponin-T:40//,
   ALT / AST:28/29, Alk Phos / T Bili:73/1.6, Differential-Neuts:91.6 %,
   Band:2.0 %, Lymph:6.2 %, Mono:2.0 %, Eos:0.1 %, D-dimer:3509 ng/mL,
   Fibrinogen:235 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:273
   IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   In summary, Ms. [**Known lastname **] is an 18 year old female with likely
   odontogenic infection resulting in cavernous sinus thrombosis, GNR
   bacteremia (likely Fusobacterium), and DIC.
   1.  Septic cavernous sinus thrombosis.  Patient noted to have right
   ptosis and dilated pupil upon admission with subsequent stable neuro
   exam.  Getting anticoagulated with heparin for thrombus with goal PTT
   of 50-60.  Will transfuse platelets if < 50, though have been well
   above that.  Remains on broad spectrum antibiotics.  Meningitis picture
   also explained by this diagnosis.
   -          Anticoagulation with heparin as above, continue at 1200/hr.
   -          Monitor neurological exam and mental status exam very
   closely.
   -          cefepime/flagyl/vanc, d/c acyclovir.
   -          Continue dexamethasone
   -          Followup cultures.
   -          Appreciate ID, neurology, neurosurgery recs.
   2.       Possible temporal lobe abscess.  Head CT showed temporal lobe
   hypodensity with concern for possible abscess vs. inflammation vs.
   artifact.  Discussed with neurology and neurosurgery; no plan for
   intervention.
   -          F/u neurosurgery recs
   -          Consider MRI with gad today (if can tolerate, but seems
   unlikely this morning
 unable to sit still) for further evaluation.
   3.       Sepsis/shock.  GNR bacteremia, likely fusobacterium given
   dental source and growth in anaerobic bottles (final ID pending).
   Likely Lemierres with septic emboli plus cavernous sinus thrombosis.
   Hemodynamically improved.
   -          f/u culture data from [**Hospital1 608**]
   -          f/u pharyngeal and masticator space aspirate, other culture
   data
   -          continue vanco/cefepime/flagyl and follow ID recs.
   4.    Respiratory failure.  Patient extubated yesterday and doing
   well.  Has known septic emboli as above.
   - continue O2 support as needed.
   - consider repeat CT chest at some point.
   - small dose (10 IV) lasix today.
   5.        Thrombocytopenia/DIC.  Received platelets prior to dental
   extraction, but platelets now stable, >100.  F
gen stable.
           -   follow platelets; should not need further transfusion given
   improvement.
           -   serial DIC labs (q6-8 hours)
           -   appreciate heme recs
   .
   6.        Dental infection.  Appears to have right upper wisdom tooth
   infection which spread to pterygoid muscle.  Has GNRs in blood cultures
   from [**Hospital1 608**] in anaerobic bottles concerning for ?fusobacterium.
   Underwent dental extraction on [**2105-12-29**].
   -          f/u cultures from dental surgery.
   -          drain removal today.
   7.       Septic emboli.  Found to have septic emboli on chest ct
   (consistent with diagnosis of Lemierres).   Also with ?renal infarct
   concerning for left and right sided infarction.  No other identified
   potential systemic lesions.  TEE showed no ASD, though did not evaluate
   with agitated saline for PFO.  No vegetations.
                         - consider reimage chest at some point to
   evaluate evolution.
   8.       Elevated intracranial pressure.  Found to have opening pressur
   of 51 on LP, however was intubated with high peep.  Neuro exam is
   unchanged.  Given DIC, will hold off on serial LPs but will consider if
   there is evidence of worsening ICP.  Per neuro, papilledema of R eye
   resolved.
   9.       Renal failure.  Pre-renal ARF is resolving.  Seen by renal who
   does not feel this is consistent with TTP-HUS.  Received several
   contrast loads in past few days, got mucomyst and hydration.
   - fluid boluses for low urine output
   -  keep euvolemic if planning further contrast loads.
   ICU Care
   Nutrition:
   Comments: ground diet, thin liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2106-01-02 07:32:00 Physician Attending Progress Note
Chief Complaint: Cavernous sinus thrombosis with septic emboli and
   sepsis syndrome
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2106-1-1**] 01:56 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2105-12-31**] 07:59 AM
   Vancomycin - [**2105-12-31**] 07:59 AM
   Cefipime - [**2105-12-31**] 04:03 PM
   Ceftriaxone - [**2106-1-1**] 08:07 PM
   Metronidazole - [**2106-1-2**] 06:06 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-1-1**] 08:07 AM
   Furosemide (Lasix) - [**2106-1-1**] 06:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-2**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 44 (43 - 69) bpm
   BP: 134/79(92) {115/47(62) - 150/90(102)} mmHg
   RR: 26 (14 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  1,425 mL
                                                                    391 mL
   PO:
             TF:
   IVF:
                                                                  1,425 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  4,405 mL
                                                                    670 mL
   Urine:
                                                                  4,305 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,980 mL
                                                                   -279 mL
   Respiratory support
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   269 K/uL
   141 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   24 mg/dL
   108 mEq/L
   139 mEq/L
   25.5 %
   12.9 K/uL
         [image002.jpg]
                            [**2105-12-30**]  12:30 PM
                            [**2105-12-30**]  06:39 PM
                            [**2105-12-31**]  04:30 AM
                            [**2105-12-31**]  10:17 AM
                            [**2105-12-31**]  05:56 PM
                            [**2106-1-1**]  03:36 AM
                            [**2106-1-1**]  06:00 AM
                            [**2106-1-1**]  12:00 PM
                            [**2106-1-1**]  04:37 PM
                            [**2106-1-2**]  04:01 AM
   WBC
   9.9
   11.1
   10.4
   12.5
   11.5
   12.4
   14.6
   12.9
   Hct
   25.4
   25.5
   25.2
   25.5
   24.2
   24.3
   28.4
   25.5
   Plt
   108
   91
   108
   113
   127
   161
   250
   269
   Cr
   0.8
   0.9
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   Glucose
   116
   100
   148
   173
   152
   135
   179
   206
   160
   141
   Other labs: PT / PTT / INR:18.3/82.8/1.7, CK / CKMB / Troponin-T:40//,
   ALT / AST:28/29, Alk Phos / T Bili:73/1.6, Differential-Neuts:85.0 %,
   Band:2.0 %, Lymph:11.9 %, Mono:2.5 %, Eos:0.1 %, D-dimer:3509 ng/mL,
   Fibrinogen:257 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:273
   IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   18 yo female with admission with right sided ptosis, opthalmoplegia,
   neck erythema, with GNR bacteremia (anaerobic bottle) and cavernous
   sinus thrombosis complicated by DIC now s/p removal of tooth #1 and
   exploration of the pterygoid muscle with extubation on [**12-30**].
    >Sinus carvernous thrombosis with GNR in blood and sepsis: R in the
   blood (anaerobic bottle: fusobacterium) and meningeal inflammation. She
   currently has a cavernous sinus thrombosis along the right side with
   extension to the dura of the temporal lobe. IN conjunction with the
   neck pain this is concerning for a anaerobic process (ie
   fusobacterium). At present we have elected to cover infection broadly
   with Metronidazole, Cefepime and Vancomycin (initially). Will cont
   dexamethasone for cavernous sinus thrombosis. She is currently being
   anti-coagulated with a goal apt for 50-60 for cavernous sinus
   thrombosis as there is a body of data  (see chart for specifica
   references) which shows significantly lower morbidity with
   anticoagulation and one reference which demonstrates decreased
   mortality. ID team agrees with anti-coagulation.  Appreciate ID team
   input. TEE was negative for ASD (not specifically mentioned that she
   had no PFO) and she has had the #1 tooth removed (appreciate OMF
   input).Of late, her CSF for  HSV and EBV is neg and we stopped
   Acyclovir [**12-31**].   In conferring with ID we decided to change the Abx
   regimen to high dose Ceftriaxone (stopping Vancomycin and Cefepime) and
   continuing Metronidazole.
   - Abx as above, with a planned [**5-24**] week course. Will plan for PICC
   placement (but defer for now based on anti-coag at present).
   - Plan for repeat MRI with gad (as soon as she can tolerate from a resp
   standpoint)
   - Steroid taper (cut dose to dexamethasone 10 mg IV q 12h)
    >Hypoxemic resp failure: bilateral septic pulmonary emboli, now
   extubated and with slightly increased O2 requirement and a worsening
   CXR (consistent with volume), there are definite septic emboli which
   are also likely contributing to V/Q mismatch.
   - Pulm toilet: OOB to chair,
   - Goal net out 500 cc to 1L
   >DIC/Anemia: DIC physiology with elevated INR, ptt (mild) and decreased
   plts with inappropriately low fibrinogen and elevated FDP. The most
   likely explanation is her evolving GNR bacteremia/meningitis. For now
   our care is supportive.  We will cont to follow very closely,
   concerned. Appreciate hematology input.
   - Follow DIC lab. Unclear why the INR is rising, ? related to heparin
   vs nutriotional deficiency (Vit K).
    >Anticoagulation: will anticoagulate wit IV heparin. If PLts <50K ,
   INR<2.5 then stop. Goal aPTT 50-60.
   >Renal failure: initially pre-renal, and now resolved. She conts to do
   well.
   - Will gently diurese today.
   -  follow electrolytes closely
   > Sinusitis: conservative management with affrin and NS nasal, broad
   spectrum Abx. Appreciate ENT input
   > Swallowing function: appreciate SLP cont mechanical ground and
   advance as tolerate
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2106-01-02 07:56:00 Physician Resident Progress Note
Chief Complaint: cavernous venous thrombosis
   24 Hour Events:
 EKG - At [**2106-1-1**] 01:56 PM
   Heme-onc OK with vitamin K for three days
   Decreased steroids to q12
   OOB
   Postponed MR [**First Name (Titles) **] [**Last Name (Titles) **] status, still 2L and mildly tachypneic
   Diuresis 10mg iv lasix in am
   Diuresis 10mg iv lasix 5pm
   KUB done in PM for 1 bout of nausea, non-bloody, gastric contents
   vomiting x1 - "no ileus" - gas in colon
   Dyspnea improved today.  No current nausea.  Still c/o facial numbness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2105-12-31**] 07:59 AM
   Vancomycin - [**2105-12-31**] 07:59 AM
   Cefipime - [**2105-12-31**] 04:03 PM
   Ceftriaxone - [**2106-1-1**] 08:07 PM
   Metronidazole - [**2106-1-2**] 06:06 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-1-1**] 08:07 AM
   Furosemide (Lasix) - [**2106-1-1**] 06:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-2**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 44 (43 - 69) bpm
   BP: 134/79(92) {115/47(62) - 150/90(102)} mmHg
   RR: 26 (14 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  1,425 mL
                                                                    399 mL
   PO:
             TF:
   IVF:
                                                                  1,425 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  4,405 mL
                                                                    670 mL
   Urine:
                                                                  4,305 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,980 mL
                                                                   -271 mL
   [**Year (4 digits) **] support
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress.  Alert and
   oriented x 3.  Appropriate speech and behavior.
   Eyes / Conjunctiva: No(t) PERRL, R ptosis (?slight interval
   improvement), R pupil fixed with minimal to no reactivity to light, +
   afferent intact (contralateral constriction), Full lateral motion but
   no superior/inferior/medial gaze as prior.  L eye exam normal, full
   ROM.  Corneal reflex intact bilat
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   [**Year (4 digits) **] / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   mild suprapubic TTP.
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to) x3: , Movement: Not assessed, Tone: Not
   assessed.  Eye exam as above.  Reports hypoaesthesia in V1-V2
   distribution.  Facial muscle movement equal/symmetric.  Tongue
   midline.  Peripheral strength exam normal [**6-22**].
   Labs / Radiology
   269 K/uL
   8.5 g/dL
   141 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   24 mg/dL
   108 mEq/L
   139 mEq/L
   25.5 %
   12.9 K/uL
        [image002.jpg]
                            [**2105-12-30**]  12:30 PM
                            [**2105-12-30**]  06:39 PM
                            [**2105-12-31**]  04:30 AM
                            [**2105-12-31**]  10:17 AM
                            [**2105-12-31**]  05:56 PM
                            [**2106-1-1**]  03:36 AM
                            [**2106-1-1**]  06:00 AM
                            [**2106-1-1**]  12:00 PM
                            [**2106-1-1**]  04:37 PM
                            [**2106-1-2**]  04:01 AM
   WBC
   9.9
   11.1
   10.4
   12.5
   11.5
   12.4
   14.6
   12.9
   Hct
   25.4
   25.5
   25.2
   25.5
   24.2
   24.3
   28.4
   25.5
   Plt
   108
   91
   108
   113
   127
   161
   250
   269
   Cr
   0.8
   0.9
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   Glucose
   116
   100
   148
   173
   152
   135
   179
   206
   160
   141
   Other labs: PT / PTT / INR:18.3/82.8/1.7, CK / CKMB / Troponin-T:40//,
   ALT / AST:28/29, Alk Phos / T Bili:73/1.6, Differential-Neuts:85.0 %,
   Band:2.0 %, Lymph:11.9 %, Mono:2.5 %, Eos:0.1 %, D-dimer:3509 ng/mL,
   Fibrinogen:257 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:273
   IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 In summary, Ms. [**Known lastname **] is an 18 year old female with likely
   odontogenic infection resulting in cavernous sinus thrombosis,
   Fusobacterium bacteremia, and DIC.
   1.  Septic cavernous sinus thrombosis.  Patient noted to have right
   ptosis and dilated pupil upon admission with subsequent stable neuro
   exam.  Getting anticoagulated with heparin for thrombus with goal PTT
   of 50-60.  On flagyl ceftriaxone for prolonged course.
   -          Anticoagulation with heparin as above, continue at 900/hr
   (recheck this AM)
   -          Monitor neurological exam and mental status exam very
   closely.
   -          Ceftriaxone/flagyl; ?need IV ?need PICC
   -          Tapered dexamethasone to 10 mg IV q12, further taper pending
   ID/neuro recs.
   -          Appreciate ID, neurology, neurosurgery recs
   -          Eepeat imaging (MRI) today if can tolerate it (will attempt)
   2.       Possible temporal lobe abscess.  Head CT showed temporal lobe
   hypodensity with concern for possible abscess vs. inflammation vs.
   artifact.  Discussed with neurology and neurosurgery; no plan for
   intervention.
   -          F/u neurosurgery recs
   -          Consider MRI with gad today
   3.  Dyspnea.  Diuresed yesterday with improvement in SOB and CXR.
   Likely fluid overload on top of known septic emboli.
   - Goal 500-1L negative today (was quite negative yesterday
 3L); lasix
   prn.
   4.        Thrombocytopenia/DIC.  DIC overall seems to be improving
   platelets up dramatically, stable fibrinogen, rising INR, though
   elevated FDP.
           -   follow platelets; should not need further transfusion given
   improvement.
           -   serial DIC labs [**Hospital1 7**]
           -   appreciate heme recs
           -    trying vitamin K x 3 days
   .
   5.       Septic emboli.  Found to have septic emboli on chest ct
   (consistent with diagnosis of Lemierres).   Also with ?renal infarct
   concerning for left and right sided infarction.  No other identified
   potential systemic lesions.  TEE showed no ASD, though did not evaluate
   with agitated saline for PFO.  No vegetations.
   6.       Delerium.  Had post extubation agitation and some bizarre
   behavior.  Significantly improved today; seems to be at baseline now.
                        - minimize mind altering meds; tapering steroids
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-12-27**] 06:42 PM
   Prophylaxis:
   DVT: Boots and therapeutic heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for today

2106-01-03 07:16:00 Physician Resident Progress Note
Chief Complaint: cavernous venous thrombosis
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2106-1-2**] 04:00 PM
   - Platelets continued to improve, INR stable, FDP still elevated.
   - MRI with gad: no well demarcated abscess.
   - Neuro exam stable.
   - 10 IV lasix given, negative 750 cc at midnight.  Now on RA.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2105-12-31**] 07:59 AM
   Vancomycin - [**2105-12-31**] 07:59 AM
   Cefipime - [**2105-12-31**] 04:03 PM
   Ceftriaxone - [**2106-1-2**] 08:00 PM
   Metronidazole - [**2106-1-3**] 06:00 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-1-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-3**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 51 (44 - 84) bpm
   BP: 119/64(77) {99/48(58) - 135/71(85)} mmHg
   RR: 20 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  1,835 mL
                                                                    526 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,115 mL
                                                                    286 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                  1,205 mL
   Urine:
                                                                  2,580 mL
                                                                  1,205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -745 mL
                                                                   -679 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress.  Alert and
   oriented x 3.  Appropriate speech and behavior.
   Eyes / Conjunctiva: No(t) PERRL, R ptosis (?slight interval
   improvement), R pupil fixed with minimal to no reactivity to light, +
   afferent intact (contralateral constriction), Full lateral motion but
   no superior/inferior/medial gaze as prior.  L eye exam normal, full
   ROM.  Corneal reflex intact bilat
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   mild suprapubic TTP.
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to) x3: , Movement: Not assessed, Tone: Not
   assessed.  Eye exam as above.  Reports hypoaesthesia in V1-V2
   distribution.  Facial muscle movement equal/symmetric.  Tongue
   midline.  Peripheral strength exam normal [**6-22**].
   Labs / Radiology
   310 K/uL
   9.5 g/dL
   135 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.2 mEq/L
   21 mg/dL
   103 mEq/L
   136 mEq/L
   28.0 %
   14.4 K/uL
        [image002.jpg]
                            [**2105-12-31**]  04:30 AM
                            [**2105-12-31**]  10:17 AM
                            [**2105-12-31**]  05:56 PM
                            [**2106-1-1**]  03:36 AM
                            [**2106-1-1**]  06:00 AM
                            [**2106-1-1**]  12:00 PM
                            [**2106-1-1**]  04:37 PM
                            [**2106-1-2**]  04:01 AM
                            [**2106-1-2**]  05:06 PM
                            [**2106-1-3**]  04:21 AM
   WBC
   10.4
   12.5
   11.5
   12.4
   14.6
   12.9
   13.8
   14.4
   Hct
   25.2
   25.5
   24.2
   24.3
   28.4
   25.5
   27.5
   28.0
   Plt
   108
   113
   127
   161
   [**Telephone/Fax (2) 3631**]10
   Cr
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   0.7
   Glucose
   148
   173
   152
   135
   179
   206
   160
   141
   135
   Other labs: PT / PTT / INR:16.2/53.7/1.4, CK / CKMB / Troponin-T:40//,
   ALT / AST:26/28, Alk Phos / T Bili:68/0.9, Differential-Neuts:85.0 %,
   Band:2.0 %, Lymph:11.9 %, Mono:2.5 %, Eos:0.1 %, D-dimer:3509 ng/mL,
   Fibrinogen:278 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:326
   IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is an 18 year old female with likely odontogenic infection
   resulting in cavernous sinus thrombosis, Fusobacterium bacteremia, and
   DIC.
   1.  Septic cavernous sinus thrombosis.  Patient noted to have right
   ptosis and dilated pupil upon admission with subsequent stable neuro
   exam.  Getting anticoagulated with heparin for thrombus with goal PTT
   of 50-60.  On flagyl ceftriaxone for prolonged course.
   -          Anticoagulation with heparin as above, continue at 900/hr
   (recheck this AM)
   -          Monitor neurological exam and mental status exam very
   closely.
   -          Ceftriaxone/flagyl; ?need IV ?need PICC
   -          Tapered dexamethasone to 10 mg IV q12, further taper pending
   ID/neuro recs.
   -          Appreciate ID, neurology, neurosurgery recs
   -          Eepeat imaging (MRI) today if can tolerate it (will attempt)
   2.       Possible temporal lobe abscess.  Head CT showed temporal lobe
   hypodensity with concern for possible abscess vs. inflammation vs.
   artifact.  Discussed with neurology and neurosurgery; no plan for
   intervention.
   -          F/u neurosurgery recs
   -          Consider MRI with gad today
   3.  Dyspnea.  Diuresed yesterday with improvement in SOB and CXR.
   Likely fluid overload on top of known septic emboli.
   - Goal 500-1L negative today (was quite negative yesterday
 3L); lasix
   prn.
   4.        Thrombocytopenia/DIC.  DIC overall seems to be improving
   platelets up dramatically, stable fibrinogen, rising INR, though
   elevated FDP.
           -   follow platelets; should not need further transfusion given
   improvement.
           -   serial DIC labs [**Hospital1 7**]
           -   appreciate heme recs
           -    trying vitamin K x 3 days
   .
   5.       Septic emboli.  Found to have septic emboli on chest ct
   (consistent with diagnosis of Lemierres).   Also with ?renal infarct
   concerning for left and right sided infarction.  No other identified
   potential systemic lesions.  TEE showed no ASD, though did not evaluate
   with agitated saline for PFO.  No vegetations.
   6.       Delerium.  Had post extubation agitation and some bizarre
   behavior.  Significantly improved today; seems to be at baseline now.
                        - minimize mind altering meds; tapering steroids
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-12-27**] 06:42 PM
   20 Gauge - [**2106-1-2**] 11:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2106-01-03 07:43:00 Physician Attending Progress Note
Chief Complaint: Cavernous sinus thrombosis [**3-21**] odontogenic infection
   and Lemier
s syndrome and fusobacterium bacteremia.
   HPI:
    Patient seen and examined with ICU residents. Plan discussed.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2106-1-2**] 04:00 PM: No abscess
   SUBJ: Feels well. Somewhat increased sensation of tightness on the
   right side of mouth.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2105-12-31**] 07:59 AM
   Vancomycin - [**2105-12-31**] 07:59 AM
   Cefipime - [**2105-12-31**] 04:03 PM
   Ceftriaxone - [**2106-1-2**] 08:00 PM
   Metronidazole - [**2106-1-3**] 06:00 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-1-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-3**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 51 (44 - 84) bpm
   BP: 119/64(77) {99/48(58) - 135/71(85)} mmHg
   RR: 20 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  1,835 mL
                                                                    536 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,115 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                  1,205 mL
   Urine:
                                                                  2,580 mL
                                                                  1,205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -745 mL
                                                                   -669 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96% RA
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: diminished but present response to light in the
   right pupil (normal on the left)
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear. Decreased BS at bases.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed,
   3rd cranial nerve palsy; paresthesia of trigeminal nerve (lip and up)
   on the right
   Labs / Radiology
   9.5 g/dL
   310 K/uL
   135 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.2 mEq/L
   21 mg/dL
   103 mEq/L
   136 mEq/L
   28.0 %
   14.4 K/uL
        [image002.jpg]
                            [**2105-12-31**]  04:30 AM
                            [**2105-12-31**]  10:17 AM
                            [**2105-12-31**]  05:56 PM
                            [**2106-1-1**]  03:36 AM
                            [**2106-1-1**]  06:00 AM
                            [**2106-1-1**]  12:00 PM
                            [**2106-1-1**]  04:37 PM
                            [**2106-1-2**]  04:01 AM
                            [**2106-1-2**]  05:06 PM
                            [**2106-1-3**]  04:21 AM
   WBC
   10.4
   12.5
   11.5
   12.4
   14.6
   12.9
   13.8
   14.4
   Hct
   25.2
   25.5
   24.2
   24.3
   28.4
   25.5
   27.5
   28.0
   Plt
   108
   113
   127
   161
   [**Telephone/Fax (2) 3631**]10
   Cr
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   0.7
   Glucose
   148
   173
   152
   135
   179
   206
   160
   141
   135
   Other labs: PT / PTT / INR:16.2/53.7/1.4, CK / CKMB / Troponin-T:40//,
   ALT / AST:26/28, Alk Phos / T Bili:68/0.9, Differential-Neuts:85.0 %,
   Band:2.0 %, Lymph:11.9 %, Mono:2.5 %, Eos:0.1 %, D-dimer:3509 ng/mL,
   Fibrinogen:278 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:326
   IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   18 yo female with admission with right sided ptosis, opthalmoplegia,
   neck erythema, with GNR bacteremia (anaerobic bottle) and cavernous
   sinus thrombosis complicated by DIC now s/p removal of tooth #1 and
   exploration of the pterygoid muscle with extubation on [**12-30**].
    >Sinus carvernous thrombosis with GNR in blood and sepsis: R in the
   blood (anaerobic bottle: fusobacterium) and meningeal inflammation. She
   currently has a cavernous sinus thrombosis along the right side with
   extension to the dura of the temporal lobe. IN conjunction with the
   neck pain this is concerning for a anaerobic process (ie
   fusobacterium). At present we have elected to cover infection broadly
   with Metronidazole, Cefepime and Vancomycin (initially). Will cont
   dexamethasone for cavernous sinus thrombosis. She is currently being
   anti-coagulated with a goal apt for 50-60 for cavernous sinus
   thrombosis as there is a body of data  (see chart for specific
   references) which shows significantly lower morbidity with
   anticoagulation and one reference which demonstrates decreased
   mortality. ID team agrees with anti-coagulation.  Appreciate ID team
   input. TEE was negative for ASD (not specifically mentioned that she
   had no PFO) and she has had the #1 tooth removed (appreciate OMF
   input).Of late, her CSF for  HSV and EBV is neg and we stopped
   Acyclovir [**12-31**].   In conferring with ID we decided to change the Abx
   regimen to high dose Ceftriaxone (stopping Vancomycin and Cefepime) and
   continuing Metronidazole. MRI brain without evidence of abscess.
   - Abx as above, with a planned [**5-24**] week course. Will plan for PICC
   placement (but defer for now based on anti-coag at present). Will d/w
   ID re: possibility of PO Abx vs need for PICC line
   - Steroid taper (dose was cut to dexamethasone 10 mg IV q 12h)
   - Will clarify duration of course (if prolonged
 will need bactrim
   ppx)
    >Hypoxemic resp failure: bilateral septic pulmonary emboli, and volume
   overload. Improved significantly with diuresis (CXR looks much better
   and sx are better). She is now on RA.
   - Pulm toilet: OOB to chair
   - Goal net out 500 cc to 1L
    >Anticoagulation: anticoagulate wit IV heparin. If PLts <50K , INR<2.5
   then stop. Goal aPTT 50-60. Likely will continue while inpatient and
   stop before going home.
   > Sinusitis: conservative management with affrin and NS nasal, broad
   spectrum Abx. Appreciate ENT input
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  CVL
 d/c today (will have 2 PIV
   Multi Lumen - [**2105-12-27**] 06:42 PM
   20 Gauge - [**2106-1-2**] 11:30 AM
   d/C Foley
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Ready for floor
   Total time spent: